US06852726B2
Step 1 (5-Nitro-indol-1-yl)-acetonitrile
To a solution of 5-nitroindole (1.62 g, 10 mmole) in DMF (15 ml) was added sodium hydride (60% in oil, 0.440 g, 11 mmole). The reaction mixture was stirred for 30 minutes at room temperature after which time bromoacetonitrile (1.25 g, 10.5 mmole) was added via syringe. After 1 h reaction time at the same temperature, the mixture was poured into 200 ml of water. The precipitate, (5-nitro-indol-1-yl)-acetonitrile, was collected (1.96, 97% yield) and was used without further purification.

reactant | 5-nitroindole | 10 mmole, 1.62 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | sodium hydride | 11 mmole, 0.440 g | [H-].[Na+]
reactant | bromoacetonitrile | 10.5 mmole, 1.25 g | BrCC#N | C2H2BrN
reactant | water | 200 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (5-Nitro-indol-1-yl)-acetonitrile | 97% yield | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC#N | C10H7N3O2
